US07468375B2
Step 4: Ethyl 1-(4-fluorobenzyl)-4-[[(trifluoromethyl)sulfonyl]oxy}-1-H-pyrrolo[2,3-c]pyridine-5-carboxylate.
To a stirred solution of the ethyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (20.0 g, 63.7 mmol) and triethylamine (44.4 mL, 318.5 mmol) in dichloromethane (150 mL) at 0° C. was added trifluoromethanesulfonic anhydride (32.0 mL, 190.1 mmol) dropwise and the reaction stirred for 1 h. It was quenched with water, extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, concentrated and purified by chromatography with ethyl acetate/hexane (1/1) to provide the title compound as brown solid (17.6 grams, 78% yield). 1H NMR (DMSO-d6): δ: 8.10 (s, 1H), 8.08 (d, 1H), 7.41 (t, 2H), 7.18 (t, 2H), 6.74 (d, 1H), 5.64 (s, 2H), 4.34 (q, 2H), 1.31 (t, 3H). LC/MS (API-ES, M+H+): 447.0.

reactant | ethyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 63.7 mmol, 20.0 g | FC1=CC=C(CN2C=CC=3C2=CN=C(C3O)C(=O)OCC)C=C1 | C17H15FN2O3
reactant | triethylamine | 318.5 mmol, 44.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 190.1 mmol, 32.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Ethyl 1-(4-fluorobenzyl)-4-[[(trifluoromethyl)sulfonyl]oxy}-1-H-pyrrolo[2,3-c]pyridine-5-carboxylate | 17.6 grams, 78% yield | FC1=CC=C(CN2C=CC=3C2=CN=C(C3OS(=O)(=O)C(F)(F)F)C(=O)OCC)C=C1 | C18H14F4N2O5S
